US05245035
Tetrakis(triphenylphosphine)palladium (40 mg) was added to a suspension of 4-[(2-ethyl-5,6,7,8-tetrahydroquinolin-4-yl)oxymethyl]-phenylboronic acid (200 mg) and 2-bromobenzonitrile (106 mg) in toluene (2 ml) ethanol (0.5 ml) and 2M aqueous sodium carbonate (0.58 ml). The mixture was degassed and placed under an atmosphere of argon, then heated under reflux for 12 hours. The resulting solution was cooled to ambient temperature, and dichloromethane (30 ml) and water (10 ml) were added. The organic layer was separated, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by flash chromatography, eluting with ethyl acetate/hexane (3:1 v/v), and the product triturated with ether/hexane to give 4-[(2'-cyanobiphenyl-4-yl)methoxy]-2-ethyl-5,6,7,8-tetrahydroquinoline (106 mg) as a white solid, m.p. 147°-148° C.; NMR (CDCl3): 1.29(t,3H), 1.7-1.95(m,4H), 5.17(s,2H), 6.57(s,1H), 7.4-7.7 (complex m,7 H), 7.78(d,1H); mass spectrum (+ve CI) 369 (M+H)+.

reactant | 4-[(2-ethyl-5,6,7,8-tetrahydroquinolin-4-yl)oxymethyl]-phenylboronic acid | 200 mg | C(C)C1=NC=2CCCCC2C(=C1)OCC1=CC=C(C=C1)B(O)O | C18H22BNO3
reactant | 2-bromobenzonitrile | 106 mg | BrC1=C(C#N)C=CC=C1 | C7H4BrN
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium carbonate | 2M, 0.58 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Tetrakis(triphenylphosphine)palladium | 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[(2'-cyanobiphenyl-4-yl)methoxy]-2-ethyl-5,6,7,8-tetrahydroquinoline | 106 mg | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)COC1=CC(=NC=2CCCCC12)CC | C25H24N2O
